US04396627
1-(4-Carbomethoxyphenyl)propan-2-one ethylene ketal
A mixture of 1-(4-carbomethoxyphenyl)propan-2-one (17.3 g), ethan-1,2-diol (5.6 g) and p-toluenesulphonic acid (200 ml) in benzene (150 ml) was refluxed under a Dean and Stark head until the theoretical amount of water had been collected (ca. 4 hours). The solvent was evaporated and the residue was partitioned between sodium bicarbonate solution and ether. The ethereal extract was washed with water, dried, evaporated and distilled to give 15.7 g (74%), bp 136-140/1.5 mm.

reactant | 1-(4-carbomethoxyphenyl)propan-2-one | 17.3 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)=O | C11H12O3
reactant | ethan-1,2-diol | 5.6 g | C(CO)O | C2H6O2
reactant | p-toluenesulphonic acid | 200 ml | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-Carbomethoxyphenyl)propan-2-one ethylene ketal | C1COC(CC2=CC=C(C=C2)C(=O)OC)(C)O1 | C13H16O4
